US06908936B2
Methanesulfonic acid, 2-(2-benzotriazol-1-ylmethyl-benzimidazol-1-yl)-ethyl Ester
1-[1-(2-Hydroxylethyl)-1-H-benzimidazol-2-ylmethyl)-1H-benzotriazole (300 mg, 1.02 mmol) was suspended in anhydrous methylene chloride and cooled to 0° C. with an ice bath. Diisopropylethylamine (0.36 ml, 2.05 mmol) and methanesulfonyl chloride (0.16 mL, 2.05 mmol) were slowly added. The reaction was stirred at 0° C. for 1 hour during which the solution became clear. The solvent was stripped under vacuum, and the residue was purified by flash chromatography (EtOAc) to give 221 mg (58%) of the title compound as a white solid.

reactant | 1-[1-(2-Hydroxylethyl)-1-H-benzimidazol-2-ylmethyl)-1H-benzotriazole | 1.02 mmol, 300 mg | OCCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C16H15N5O
reactant | Diisopropylethylamine | 2.05 mmol, 0.36 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 2.05 mmol, 0.16 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid, 2-(2-benzotriazol-1-ylmethyl-benzimidazol-1-yl)-ethyl Ester | 221 mg, 58% | CS(=O)(=O)OCCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C17H17N5O3S
